US07723378B2
To a solution of 5,5-dimethyl-2-oxo-cyclohexanecarbaldehyde (51 g, 331 mmol) in chloroform (250 mL), oxalyl chloride (40 mL, 465 mmol) is rapidly added. After stirring for 3-4 min ice followed by 2 N aq. NaOH (100 mL) is added. The organic phase is separated and the aq. phase is extracted once more with chloroform. The combined organic extracts are washed with water and dried over Na2SO4. The solvent is removed in vacuo to give 2-chloromethylene-4,4-dimethyl-cyclohexanone (50 g) as a brown oil; LC-MS: tR=0.96 min.

reactant | 5,5-dimethyl-2-oxo-cyclohexanecarbaldehyde | 331 mmol, 51 g | CC1(CCC(C(C1)C=O)=O)C | C9H14O2
reactant | oxalyl chloride | 465 mmol, 40 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaOH | 2 N, 100 mL | [OH-].[Na+]
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethylene-4,4-dimethyl-cyclohexanone | 50 g | ClC=C1C(CCC(C1)(C)C)=O | C9H13ClO
